US06121323
1,1'-(2-Methylpentamethylene)bis(3-hydroxy-3-(1-ethylpropyl)urea)
1,5-Diisocyanato-2-methylpentane (3.2 ml, 20 mmol) was added dropwise to a solution of N-(1-ethylpropyl)hydroxylamine (4.4 g, 43 mmol) in dichloromethane (200 ml). The reaction was maintained overnight and then concentrated (in vacuo) to a volume of approximately 20 ml. Purification of the sample by flash column chromatography (96:4 dichloromethane.backslash.methanol, Rf 0.26) followed by recrystallization from N,N-dimethylformamide.backslash.water provided 2.6 g of the desired product as a white powder: MP: 124.0-125.0° C.; 1H NMR (300 MHz, DMSO): δ 8.70 (s, 1H), 8.66 (s, 1H), 6.73 (t, J=6.0 Hz, 1H), 6.68 (t, J=7.0 Hz, 1H), 3.81-3.72 (m, 2H), 3.02-2.78 (m, 4H), 1.60-0.98 (m, 13H), 0.83-0.77 (m, 15H); 13C NMR (75 MHz, DMSO): δ 160.95, 160.92, 59.9, 45.4, 39.6, 33.1, 31.2, 27.5, 24.5, 17.5, 11.1; IR (KBr): 3428, 3177, 2969, 2930, 2876, 1639, 1540, 1462, 1378, 1266, 1167, 1142, 1062, 1034, 929, 770 cm-1 ; MS (FAB): m/e 375.2957 (375.2971 calc'd for C18H39N4O4, M+H); Anal. calc'd for C18H38N4O4 : C, 57.73; H, 10.23; N, 14.96. Found: C, 57.90; H, 10.19; N, 14.93.

reactant | 1,5-Diisocyanato-2-methylpentane | 20 mmol, 3.2 ml | N(=C=O)CC(CCCN=C=O)C | C8H12N2O2
reactant | N-(1-ethylpropyl)hydroxylamine | 43 mmol, 4.4 g | C(C)C(CC)NO | C5H13NO
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 1,1'-(2-Methylpentamethylene)bis(3-hydroxy-3-(1-ethylpropyl)urea) | 2.6 g | CC(CNC(=O)N(C(CC)CC)O)CCCNC(=O)N(O)C(CC)CC | C18H38N4O4
